US08609855B2
Propan-2-yl 4-amino-3-bromo-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate
Propan-2-yl 4-amino-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate (500 mg, 1.402 mmol) was dissolved in dichloromethane (3.2 mL). N-Bromo-succinimide (299 mg, 1.682 mmol) was added, and the solution was stirred at ambient temperature for 20 h. The reaction mixture was then concentrated to dryness. The residue was purified by chromatography (40 g silica gel column; 0-70% EtOAc-hexanes) to give a tan solid (504 mg, 83%): 1H NMR (400 MHz, DMSO-d6) δ 7.47 (dd, J=8.5, 1.6 Hz, 1H), 7.29 (dd, J=8.5, 7.1 Hz, 1H), 7.01 (s, 2H), 5.22-5.10 (m, 1H), 3.93 (d, J=0.9 Hz, 3H), 1.32 (d, J=6.3 Hz, 6H); EIMS m/z 350.

reactant | Propan-2-yl 4-amino-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate | 1.402 mmol, 500 mg | NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC(C)C | C16H15ClF2N2O3
reactant | N-Bromo-succinimide | 1.682 mmol, 299 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 3.2 mL | ClCCl | CH2Cl2
product | Propan-2-yl 4-amino-3-bromo-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate | 504 mg, 83% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC(C)C)Br | C16H14BrClF2N2O3
